
* c:\esimworkspace\inverter1\inverter1.cir

*.include NMOS-180nm.lib
*.include PMOS-180nm.lib

.include "sky130_fd_pr__nfet_01v8__tt.pm3.spice"

.include "sky130_fd_pr__pfet_01v8__tt.pm3.spice"

*.include "all.spice"

*.include "nfet_01v8_nfet_vth.spice
*.include "pfet_01v8_pfet_vth.spice

X2 out in net-X2-pad3_ net-X2-pad3_ CMOSP W=100u L=100u X=1
X1 out in gnd gnd CMOSN W=100u L=100u M=1
v1  in gnd pwl(0 0 1.8 0 3 1.8 5 1.8)
v2 net-_m2-pad3_ gnd  dc 1.8
* u1  in out port
.tran 0.1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
