* c:\esimworkspace\inverter1\inverter1.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 /out /in net-_m2-pad3_ net-_m2-pad3_ CMOSP W=100u L=100u M=1
m1 /out /in gnd gnd CMOSN W=100u L=100u M=1
v1  /in gnd pwl(0 0 1.8 0 3 1.8 5 1.8)
v2 net-_m2-pad3_ gnd  dc 1.8
* u1  /in /out port
.tran 0.1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
